US04966918
A mixture of 3-bromomethyl-1,8-dihydroxy-9,10-anthraquinone (456 mg) and bis(2-hydroxyethyl)amine (600 mg) in N,N-dimethylformamide (20 mL) is stirred for 2 hours, and then partitioned between chloroform (100 mL) and water (100 mL). The organic layer is separated, washed with water (50 mL×3), dried over sodium sulfate, and then concentrated to dryness. The residue is chromatographed on a silica gel column using chloroform-methanol (15:1 v/v) as the eluent. Upon concentration of the major fraction, 3-[N,N-bis(2-hydroxyethyl)amino]methyl-1,8-dihydroxy-9,10-anthraquinone is obtained as a solid: 1H NMR (CDCl3) δ: 2.77 (4H, t, NCH2CH2O), 3.78 (4H, t, NCH2CH2O), 3.78 (2H, s, CH2N=), 7.21-7.79 (5H, m, aromatic H), 11.95 (1H, s, OH), 12.00 (1H, s, OH).

reactant | 3-bromomethyl-1,8-dihydroxy-9,10-anthraquinone | 456 mg | BrCC=1C=C(C=2C(C3=C(C=CC=C3C(C2C1)=O)O)=O)O | C15H9BrO4
reactant | bis(2-hydroxyethyl)amine | 600 mg | OCCNCCO | C4H11NO2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-[N,N-bis(2-hydroxyethyl)amino]methyl-1,8-dihydroxy-9,10-anthraquinone | OCCN(CCO)CC=1C=C(C=2C(C3=C(C=CC=C3C(C2C1)=O)O)=O)O | C19H19NO6
